US04510136
Preparation of (4-Chlorophenyl)dimethyl(1H-1,2,4-triazol-1-ylmethyl)silane
A mixture of 2.2 g (0.010 mol) of chloromethyl(4-chlorophenyl)dimethylsilane and 1.1 g (0.012 mol) of 1,2,4-triazole sodium salt in 5 ml of dimethylformamide was warmed to 80°-90° for 2 hours, diluted with water, and extracted with ether. The ether solution was washed with water and brine, dried over magnesium sulfate, and evaporated to leave 2:1 g (83%) of the title compound as a yellow liquid: nD21 1.5428; ir (neat) 1555, 1470, 1245, 1130, 1080, 1010, 835, 805, 795, 735 cm-1 ; nmr (CDCl3) 0.4 (6H, s), 3.8 (2H, s), 7.4 (4H, broad s), 7.8 (1H, s), 7.9 (1H, s).

reactant | chloromethyl(4-chlorophenyl)dimethylsilane | 0.010 mol, 2.2 g | ClC[Si](C)(C)C1=CC=C(C=C1)Cl | C9H12Cl2Si
reactant | 1,2,4-triazole sodium salt | 0.012 mol, 1.1 g | [Na].N1N=CN=C1
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | (4-Chlorophenyl)dimethyl(1H-1,2,4-triazol-1-ylmethyl)silane | 1 g, 83% | ClC1=CC=C(C=C1)[Si](CN1N=CN=C1)(C)C | C11H14ClN3Si
